US07615555B2
Preparation of 1-[4-(methylsulphonyl)benzyl]-3-piperidin-4-ylimidazolidin-2-one
A solution of 1-(1-benzylpiperidin-4-yl)-3-[4-(methylsulphonyl)benzyl]-1,3-dihydro-2H-imidazol-2-one (1.2 g) in ethanol was hydrogenated under a hydrogen filled balloon using 20% palladium on charcoal as catalyst. The catalyst was filtered and the filtrate evaporated to dryness to give the title compound, yield 0.6 g, NMR CDCl3 1.6-2 (m, 5H) 2.8 (m, 1H) 3.05 (s, 3H) 3.2-4.5 (m, 7H) 4.45 (s, 2H) 7.5 (d, 2H) 7.9 (d, 2H).

reactant | 1-(1-benzylpiperidin-4-yl)-3-[4-(methylsulphonyl)benzyl]-1,3-dihydro-2H-imidazol-2-one | 1.2 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(N(C=C1)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C23H27N3O3S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 1-[4-(methylsulphonyl)benzyl]-3-piperidin-4-ylimidazolidin-2-one | CS(=O)(=O)C1=CC=C(CN2C(N(CC2)C2CCNCC2)=O)C=C1 | C16H23N3O3S
